US08138197B2
Production of 5-(1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid sodium salt
5-(1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid (285 mg) was suspended in water (6 mL), and aqueous 1 N sodium hydroxide solution (0.624 mL) was added to it at room temperature, and stirred for 1 hour. The reaction liquid was purified through ODS reversed-phase chromatography (water/methanol) to obtain the title compound. 1H-NMR (400 MHz, DMSO-d6) δ: 8.90-8.87 (1.0H, m), 8.74-8.72 (1.0H, m), 8.28-8.26 (1.0H, m), 8.05 (1.0H, s), 7.99-7.95 (2.0H, m), 7.93-7.92 (1.0H, m), 7.22 (1.0H, d, J=9.3 Hz), 6.69 (2.0H, s), 4.35-4.18 (1.0H, br m), 4.08 (4.0H, q, J=6.8 Hz), 3.86 (3.0H, s), 3.69-3.17 (3.0H, m), 2.93 (2.0H, s), 2.15-1.86 (2.0H, m), 1.85-1.74 (2.0H, m), 1.38 (6.0H, t, J=7.0 Hz). MS [M+Na]+=633.

reactant | 5-(1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid | 285 mg | C(C)OC=1C=C(C=C(C1C=1C=NN(C1)C)OCC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=C(C=NC2)C(=O)O | C34H34N4O7
reactant | sodium hydroxide | 1 N, 0.624 mL | [OH-].[Na+]
solvent | water | 6 mL | O | H2O
product | 5-(1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid sodium salt | [Na+].C(C)OC=1C=C(C=C(C1C=1C=NN(C1)C)OCC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=C(C=NC2)C(=O)[O-] | InChI=1S/C34H34N4O7.Na/c1-4-43-29-14-22(15-30(44-5-2)31(29)25-19-36-37(3)20-25)32(40)38-10-8-34(9-11-38)16-27(39)26-13-21(6-7-28(26)45-34)23-12-24(33(41)42)18-35-17-23;/h6-7,12-15,17-20H,4-5,8-11,16H2,1-3H3,(H,41,42);/q;+1/p-1
